US07842703B2
Step III: 4-Acetamido-6-chloro-3,4-dihydro-spiro[2H-1-benzopyran-2,1′-cyclobutane]
A solution of 6-Chloro-3,4-dihydro-4-hydroxy-spiro[2H-1-benzopyran-2,1′-cyclobutane] (10 mmol) in acetonitrile (30-50 ml) was added to a solution of concentrated sulfuric acid (30 mmol) in acetonitrile (10 ml), at 0 to −10° C. The reaction mixture was stirred for about 2 hrs and was allowed to warm up, to room temperature. It was then added on ice. The corresponding acetamido derivative was separated out as a white solid which was filtered, washed with water and dried.

reactant | 6-Chloro-3,4-dihydro-4-hydroxy-spiro[2H-1-benzopyran-2,1′-cyclobutane] | 10 mmol | ClC=1C=CC2=C(C(CC3(CCC3)O2)O)C1 | C12H13ClO2
reactant | sulfuric acid | 30 mmol | S(O)(O)(=O)=O | H2O4S
reactant | acetonitrile | 30-50 ml | C(C)#N | C2H3N
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-Acetamido-6-chloro-3,4-dihydro-spiro[2H-1-benzopyran-2,1′-cyclobutane] | C(C)(=O)NC1CC2(CCC2)OC2=C1C=C(C=C2)Cl | C14H16ClNO2
